US07939519B2
To a solution of 1-(4-hydroxymethyl-phenyl)-ethanone (1 eq) in methanol is added O-(4-chloro-3-trifluoromethyl-benzyl)-hydroxylamine (1 eq) followed by the addition of acetic acid (0.05 eq). The mixture is stirred at room temperature for 5 hours. After concentrated, the residue is purified by column chromatography (30% EtOAc in hexane) to give 1-(4-hydroxymethyl-phenyl)-ethanone O-(4-chloro-3-trifluoromethyl-benzyl)-oxime as an oil [MS: (ES+) 358.1 (M+1)+].

reactant | 1-(4-hydroxymethyl-phenyl)-ethanone | 1 eq | OCC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | O-(4-chloro-3-trifluoromethyl-benzyl)-hydroxylamine | 1 eq | ClC1=C(C=C(CON)C=C1)C(F)(F)F | C8H7ClF3NO
reactant | acetic acid | 0.05 eq | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 1-(4-hydroxymethyl-phenyl)-ethanone O-(4-chloro-3-trifluoromethyl-benzyl)-oxime | ClC1=C(C=C(CON=C(C)C2=CC=C(C=C2)CO)C=C1)C(F)(F)F | C17H15ClF3NO2
